US06384220B2
A solution of 2-aminopyridine (25 mg, 0.26 mmol) in acetonitrile (500 μL) was treated with 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-propionic acid (75 mg, 0.22 mmol), triphenylphosphine (63 mg, 0.24 mmol), triethylamine (91 μL, 0.66 mmol), and carbon tetrachloride (300 μL). The resulting reaction mixture was stirred at 25° C. for 15 h. The cloudy reaction mixture was diluted with water and then extracted with methylene chloride. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 3/1 hexanes/ethyl acetate) afforded impure 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-N-pyridin-2-yl-propionamide. Repurification by flash chromatography (Merck Silica gel 60, 230-400 mesh, 100% methylene chloride) afforded pure 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-N-pyridin-2-yl-propionamide. (40 mg, 43%) as a white foam: mp 73-77° C.; EI-HRMS m/e calcd for C29H28N2O (M+) 420.2202, found 420.2003.

reactant | 2-aminopyridine | 0.26 mmol, 25 mg | NC1=NC=CC=C1 | C5H6N2
reactant | 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-propionic acid | 0.22 mmol, 75 mg | C1(CCCC1)CC(C(=O)O)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12 | C24H24O2
reactant | triphenylphosphine | 0.24 mmol, 63 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triethylamine | 0.66 mmol, 91 μL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 500 μL | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | carbon tetrachloride | 300 μL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 3-cyclopentyl-2-(4-naphthalen-1-yl-phenyl)-N-pyridin-2-yl-propionamide | C1(CCCC1)CC(C(=O)NC1=NC=CC=C1)C1=CC=C(C=C1)C1=CC=CC2=CC=CC=C12 | C29H28N2O
